US07906645B2
N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]-4-hydroxypiperidine-1-carboxamide
To a mixture of 4-[(1-ethylpiperidin-3-yl)methyl]piperidin-4-ol dihydrochloride (80 mg) in dichloromethane (10 mL) was added di-iso-propylethylamine (0.12 mL), dimethylformamide (1 mL) and 3,4-dichlorophenylisocyanate (55 mg). After 10 minutes the mixture was evaporated and the residue was purified by silica column chromatography, eluting with a gradient of 0 to 10% 7M NH3/MeOH in dichloromethane to give the title compound as a white solid (110 mg, 100%).

reactant | 4-[(1-ethylpiperidin-3-yl)methyl]piperidin-4-ol dihydrochloride | 80 mg | Cl.Cl.C(C)N1CC(CCC1)CC1(CCNCC1)O
reactant | di-iso-propylethylamine | 0.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | 3,4-dichlorophenylisocyanate | 55 mg | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]-4-hydroxypiperidine-1-carboxamide | 110 mg, 100% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCC(CC1)(O)CC1CN(CCC1)CC | C20H29Cl2N3O2
